US06544985B2
(2-Amino-5-azetidin-1-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester
The title compound was prepared from (5-azetidin-1-yl-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example C15) by hydrogenation with 5% Pt/C according to the general procedure J (method a).

reactant | (5-azetidin-1-yl-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCC1)C(F)(F)F)[N+](=O)[O-])=O | C15H18F3N3O4
catalyst | Pt/C | [Pt] | Pt
product | (2-Amino-5-azetidin-1-yl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCC1)C(F)(F)F)N)=O | C15H20F3N3O2
